US07750003B2
4-[4-(Methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidin-2-yl]aniline
2-Methylsulfanyl-4-(methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidine (1.00 g, 3.3 mmol), 4-aminophenylboronic acid (904 mg, 6.60 mmol), Copper(I)thiophene-2-carboxylate (1.64 g, 8.58 mmol), Pd(PPh3)4 (153 mg, 0.04 equiv., 0.13 mmol) were added to a microwave vessel and 1,4-Dioxane (20 mL) added. The system was degassed with N2, sealed and heated in a microwave reactor at 130° C. for 1 hour. Upon cooling the reaction was poured into water and the resulting precipitate was collected by filtration and dried under vacuum to afford the title compound as an off-white solid. (988 mg)

reactant | 2-Methylsulfanyl-4-(methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidine | 3.3 mmol, 1.00 g | CSC1=NC(=CC(=N1)CS(=O)(=O)C)N1CCOCC1 | C11H17N3O3S2
reactant | 4-aminophenylboronic acid | 6.60 mmol, 904 mg | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
catalyst | Copper(I)thiophene-2-carboxylate | 8.58 mmol, 1.64 g | S1C(=CC=C1)C(=O)[O-].[Cu+]
catalyst | Pd(PPh3)4 | 0.13 mmol, 153 mg, 0.04 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-Dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 4-[4-(Methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidin-2-yl]aniline | CS(=O)(=O)CC1=NC(=NC(=C1)N1CCOCC1)C1=CC=C(N)C=C1 | C16H20N4O3S
